US06420549B1
2′/3′-O (2-tert-Butyldimethylsilylhydroxyethyl)adenosine
Adenosine (10 g, 37.42 mmol) was dried over P2O5 under high vacuum. It was then suspended in anhydrous DMF (150 mL) and NaH (1.35 g, 56.13 mmol) was added. The reaction mixture was stirred at room temperature under inert atmosphere for 30 min. Then (2-bromo ethyl)-tert-butyldimethylsilane (9.68 mL, 4.4.90 mmol) was added dropwise and the reaction mixture stirred at room temperature overnight. DMF was removed under vacuum and to the residue dichloromethane (100 mL) was added and washed with water (2×80 mL). Dichloromethane layer was dried over anhydrous Na2SO4 and evaporated to dryness. Residue purified by column to get a mixture of the title compounds (4.30 g). Rf 0.49, 0.57 (10% MeOH in CH2Cl2)

reactant | Adenosine | 37.42 mmol, 10 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaH | 56.13 mmol, 1.35 g | [H-].[Na+]
reactant | (2-bromo ethyl)-tert-butyldimethylsilane | 9.68 mL | BrCC[Si](C)(C)C(C)(C)C | C8H19BrSi
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 3′-O (2-tert-Butyldimethylsilylhydroxyethyl)adenosine | [Si](C)(C)(C(C)(C)C)C(CO[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C=NC=2C(N)=NC=NC12)O)O | C18H31N5O5Si
